US07923456B2
5-(4-Bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2-hydroxy-propoxy)-amide
To a solution of 5-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (271 mg, 0.77 mmol) in dioxane (3.9 mL) was added HOBT (306 mg, 2.3 mmol) and EDCI (442 mg, 2.3 mmol). The reaction mixture was stirred at ambient temperature for 30 minutes then (S)-1-aminooxy-propan-2-ol hydrochloride (294 mg, 2.3 mmol) and DIPEA (1.2 mL, 6.9 mmol) were added, the mixture was then stirred for 60 hours at ambient temperature. The reaction mixture was diluted with ethyl acetate then washed with a saturated aqueous solution of sodium bicarbonate followed by water and brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0 to 100%, ethyl acetate in dichloromethane, then gradient 0 to 10%, methanol in dichloromethane) to afford the title compound as a green/yellow solid (80 mg, 25%). LCMS (method A): RT=5.71 min, [M+H]+=423/425. 1H NMR (DMSO-d6): 8.10 (1H, s), 7.51 (1H, dd, J=10.87, 2.22 Hz), 7.43 (1H, s), 7.39 (1H, d, J=9.31 Hz), 7.18-7.14 (1H, m), 6.88 (1H, d, J=9.31 Hz), 6.51 (1H, t, J=8.85 Hz), 4.69 (1H, s), 3.68-3.59 (1H, m), 3.42 (2H, d, J=5.81 Hz), 0.95 (3H, d, J=6.35 Hz).

reactant | 5-(4-bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid | 0.77 mmol, 271 mg | BrC1=CC(=C(C=C1)NC1=C(C=CC=2N1C=NC2)C(=O)O)F | C14H9BrFN3O2
reactant | HOBT | 2.3 mmol, 306 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.3 mmol, 442 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (S)-1-aminooxy-propan-2-ol hydrochloride | 2.3 mmol, 294 mg | Cl.NOC[C@H](C)O
reactant | DIPEA | 6.9 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 3.9 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-Bromo-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2-hydroxy-propoxy)-amide | 80 mg, 25% | O[C@H](CONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2)C | C17H16BrFN4O3
